US09315489B2
Stage 44.2 5-Bromo-6-chloro-N-(4-(trifluoromethoxy)phenyl)nicotinamide
SOCl2 (1.089 mL, 14.92 mmol) and DMF (0.01 mL) were added dropwise to a suspension of 5-bromo-6-chloronicotinic acid (1.176 g, 4.97 mmol) in toluene (10 mL) and the RM was stirred at 85° C. for 2 h. The solvent was evaporated off under reduced pressure and the residue was diluted with THF (10 mL). DIPEA (1.74 mL, 9.95 mmol) was added and the mixture was cooled to −15° C. under argon atmosphere, treated with a solution of 4-trifluoromethoxyaniline (0.701 mL, 5.22 mmol) in THF (10 mL) and stirred at RT for 1 h. The solvent was off under reduced pressure and the residue was treated with aq. 1M HCl (50 mL), and extracted with TBME/EtOAc (4:1). The combined extracts were washed with aq. 1 M HCl, sat. aq. Na2CO3 and brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give the crude product was purified by flash chromatography (Biotage Silica gel column, 50 g, cyclohexane/EtOAc from 5% to 25% EtOAc) to afford the title compound as an off-white solid. UPLC-MS (Condition 1) tR=3.09 min, m/z=394.9/396.8 [M+H]+, m/z=393.0/394.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.40 (d, J=8.6 Hz, 2H) 7.86 (d, J=9.0 Hz, 2H) 8.73 (d, J=2.2 Hz, 1H) 8.92 (d, J=2.0 Hz, 1H) 10.69 (s, 1H).

reactant | SOCl2 | 14.92 mmol, 1.089 mL | O=S(Cl)Cl | Cl2OS
reactant | 5-bromo-6-chloronicotinic acid | 4.97 mmol, 1.176 g | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | DIPEA | 9.95 mmol, 1.74 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethoxyaniline | 5.22 mmol, 0.701 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-6-chloro-N-(4-(trifluoromethoxy)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C1)Cl | C13H7BrClF3N2O2
